US05247085
A solution of (S)-2-[bis-(t-butyloxycarbonyl)amino]-9-[3-(t-butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]-6-methoxypurine (300 mg, 0.36 mmol) in 67% aqueous trifluoroacetic acid (3 ml) was kept at ambient temperature for 3 hours. The solution was washed with hexane (3×10 ml) and the aqueous phase evaporated to dryness. The residue obtained was chromatographed on silica gel (dichloromethane: methanol 95:5 as eluant, then 90:10) to give (R)-2-amino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]-6-methoxypurine as a pale yellow glass (101 mg, 70%). 1H NMR: δH [(CD3)2SO] 1.23 (6H, t, J=7.1 Hz, (OCH2CH3)2), 3.5-3.65 (2H, m, CH2), 3.70-3.80 (1H, m, CH), 3.96 (3H, s, OCH3), 3.98-4.10 (6H, m, (OCH2CH3)2, OCH2P), 4.31 (1H, dd, J=11.27 Hz, J=6.87 Hz, NOCHB), 4.45 (1H, dd, J=11.27 Hz, J=3.02 Hz, NOCHA), 4.85 (1H, t, J=5.50 Hz, D2O exchangeable OH), 6.60 (2H, s, D2O exchangeable NH2), 8.14 (1H, s, H-8). m/z: (FAB+ve ion, thioglycerol) 406 (MH+, 100%).

reactant | (S)-2-[bis-(t-butyloxycarbonyl)amino]-9-[3-(t-butyldiphenylsilyloxy)-2-(diethoxyphosphorylmethoxy)propoxy]-6-methoxypurine | 0.36 mmol, 300 mg | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC[C@@H](CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)OCP(=O)(OCC)OCC)OC)C(=O)OC(C)(C)C | C40H58N5O11PSi
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (R)-2-amino-9-[2-(diethoxyphosphorylmethoxy)-3-hydroxypropoxy]-6-methoxypurine | 101 mg, 70% | NC1=NC(=C2N=CN(C2=N1)OC[C@@H](CO)OCP(=O)(OCC)OCC)OC | C14H24N5O7P
